US07094801B2
4-{3E-[4-Methoxy-2-(3-morpholin-4-yl-propoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide
The title compound was prepared by condensing 4-acetyl-benzenesulfonamide (Ex-26A) and 4-methoxy-2-(3-morpholin-4-yl-propoxy)-5-thiophen-2-yl-benzaldehyde (Ex-66A) in a similar manner as described in Ex-22. Yellow solid, 48% yield, mp 193–196° C. 1H-NMR (DMSO-d6) δ 8.24 (m, 3H), 8.06 (s, 1H), 7.96 (d, 2H), 7.89 (d, 1H), 7.63 (d, 1H), 7.51 (m, 1H), 7.10 (dd, J=3, 4 Hz, 1H), 6.81 (s, 1H), 4.23 (t, 2H), 3.98 (s, 3H), 3.55 (t, 4H), 2.47 (m, 2H), 2.35 (t, 4H), 1.98 (q, 2H). MS m/z=542 ([M]+, 38%), 100 (100%). Anal. calculated for C27H30N2O6S2.3/5H2O: C, 58.59; H, 5.68; S, 11.59; found C, 58.59,H: 5.55, S, 11.40.

reactant | 4-acetyl-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | 4-methoxy-2-(3-morpholin-4-yl-propoxy)-5-thiophen-2-yl-benzaldehyde | COC1=CC(=C(C=O)C=C1C=1SC=CC1)OCCCN1CCOCC1 | C19H23NO4S
product | 4-{3E-[4-Methoxy-2-(3-morpholin-4-yl-propoxy)-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide | 48% yield | COC1=CC(=C(C=C1C=1SC=CC1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OCCCN1CCOCC1 | C27H30N2O6S2
